Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Atripla / Morphine / Percocet
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
thoracentesis

 
History of Present Illness:
___ y/o with HIV, Hep C cirrhosis c/w resistent ascites and right 
hydrothorax s/p at least 6 thoracentesis presents with 
reaccurent pleural effusions. She was recently admitted from 
___ to ___ because of dyspnea. She underwent thoracentesis 
___ and was progressively diuresed but limited by 
hyponatremia. However complete resolution of the pleural 
effusion was acheived with Na restriction, aldactone 100mg, 
Lasix 20mg, and tolvaptan 15mg daily.
.
Since discharge, the patient stated that she initially was doing 
well but began to notice slow weight gain.  She states that her 
dry weight is 130-132 lb, and that on ___ she had noted her 
weight to be 137-138 lb.  She states that along with this she 
began to have worsening dyspnea on exertion with regular 
activities around the house, coupled with the development of a 
dry cough.  She also began to have worsened RUQ pain, especially 
with cough.  This is consistent with the symptoms she states 
that she usually develops with reaccumulation of hydrothorax.  
She had good urine output until the weekend.  She states that 
she has been compliant with all medications, and she states that 
she has been compliant with her low-sodium diet.
.
On ___, she felt that her symptoms warranted medical 
treatment and was seen at OSH, at which time an x-ray (per her 
report) was consistent with reaccumulation of fluid.  She was 
transferred to ___ for further management.
.
En route, she developed nausea and vomited x 1 which she 
attributes to the ambulance ride.  On arrival to the floor, she 
has no SOB at rest, and no continued nausea.
.
ROS: Denies fever, chills, headache, congestion, chest pain, 
nausea, vomiting, diarrhea, constipation, dysuria.  See HPI.  
All other systems negative.
 
Past Medical History:
# Hepatic hydrothorax, s/p thoracentesis x6 (most recent 
___, complicated by hemothorax once requiring tube 
thoracostomy  
# HIV (CD4 475, VL ND ___  
- diagnosed ___, presumed from IVDU versus sexual transmission 
from husband, who was long-term IV drug user  
- started ART due to elevated VL and low CD4 in setting of acute 

illness, per patient not diagnosed with OI  
# Hepatitis C cirrhosis (HCV VL 1,090,000 ___  
- diagnosed ___  
- complicated by ascites, encephalopathy, grade 1 varices, 
hepatic hydrothorax, elevated AFP without focal liver lesions  
- on transplant list  
- has never had variceal bleed
# h/o necrotizing fascitis ___ (complication of dog bite)
# Pulmonary nodule, noted ___, 0.7cm
 
Social History:
___
Family History:
Her mother is currently alive and doing well but suffers from 
high blood pressure and hyperlipidemia. The patient's father 
reportedly died in ___ from ___ disease and had h/o MI. 
 
 
Physical Exam:
Vitals - T: 97.6 BP: 148/91 HR: 84 RR: 16 02 sat: 97% RA
Weight: 64 kg (141 lb)
GENERAL: NAD, AAOx3
HEENT: NCAT, scleral icterus.  MMM.
CARDIAC: RRR c ___ SM heard best @ LUSB.
LUNG: Diminished R-sided breath sounds ___ of the way up.  
Diminished breath sounds at L base.  Otherwise, no crackles or 
wheezes noted.
ABDOMEN: soft, distended, TTP @ RUQ without rebound, guarding, 
or rigidity.
EXT: WWP, 2+ pulses, no c/c/e
NEURO: Grossly intact.
 
Pertinent Results:
-- discharge labs --
___ 05:20AM BLOOD WBC-9.6 RBC-2.60* Hgb-9.4* Hct-29.4* 
MCV-113* MCH-36.2* MCHC-32.0 RDW-22.0* Plt Ct-80*
___ 05:20AM BLOOD ___
___ 05:20AM BLOOD Glucose-112* UreaN-15 Creat-1.0 Na-133 
K-4.1 Cl-99 HCO3-24 AnGap-14
___ 04:15AM BLOOD ALT-69* AST-116* AlkPhos-219* 
TotBili-8.6*
___ 05:20AM BLOOD Calcium-7.7* Phos-2.5* Mg-2.2

CXR ___: As compared to the previous examination, there is a 
newly occurred extensive right-sided pleural effusion. The 
effusion occupies more than half of the right hemithorax. The 
effusion causes atelectasis of the right lung parenchyma and 
deviation of the mediastinum to the left. 

CXR ___: As compared to the previous radiograph, the 
right-sided pleural 
effusion distributes in a slightly different manner. The overall 
extent of 
effusion; however, does not appear to have substantially 
changed.

CXR ___: Right-sided effusion, with obscuration of the 
hemidiaphragm and underlying collapse and/or consolidation, 
grossly unchanged compared with ___.
 
Brief Hospital Course:
# R hydrothorax - Well-established complication of her 
refractory ascites.  During her last hospitalization, the 
patient's diuresis, previously limited by hyponatremia, was 
started and discharged on tolvaptan, which, while in-house, had 
successfully cleared her pleural effusion.  CXR ___ documented 
resolution of hydrothorax.
.
Urine Na/K ratio of 0.3 on admission with spot urine Na of 17 
indicates inadequate diuresis on home regimen, with or without 
dietary compliance.  The patient's description of her diet 
sounds as though it would be noncompliant but she states that it 
is low sodium in content.
.
Patient received thoracentesis (~1.5 L removed) with resultant 
symptomatic relief.  Diuretics regimen was uptirated to lasix 40 
mg qday, aldactone 100 mg qAM, 50 mg qPM, tolvaptan 15 mg po 
qday; she tolerated this well with stable Na (133-135, 129 on 
admission) and no elevation in creatinine.  Repeat CXR ___, 
___ showed mild improvement but no resolution of hydrothorax.  
Given ongoing continued diuresis and relief of all shortness of 
breath (including with ambulation), patient was discharged on 
same regimen.
.
# HCV cirrhosis - on transplant list.  MELD 23 on discharge, 24 
on admission.
.
# HIV - HIV VL not detected on ___.
- continue on her home doses of Truvada and raltegravir
.
# malnutrition - continue on low Na, high calorie diet with 
Ensure TID
 
Medications on Admission:
1. Ciprofloxacin 250 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours): Please separate dose time from the calcium by 
2 hours.  
2. Clotrimazole 10 mg Troche Sig: One (1)  Mucous membrane five 
times a day.  
3. Emtricitabine-Tenofovir 200-300 mg Tablet Sig: One (1) Tablet 

PO at bedtime.  
4. Lactulose 10 gram/15 mL Syrup Sig: ___ MLs PO Q8H (every 8 
hours): Please titrate to 3 bowel movements daily.  
5. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Raltegravir 400 mg Tablet Sig: One (1) Tablet PO BID (2 times 

a day).  
7. Ascorbic Acid ___ mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
8. Caltrate-600 Plus Vitamin D3 600-400 mg-unit Tablet Sig: One 
(1) Tablet PO twice a day.  
9. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
10. Tolvaptan 15 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
11. Spironolactone 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
 
Discharge Medications:
1. Ciprofloxacin 250 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours).  
2. Clotrimazole 10 mg Troche Sig: One (1) Troche Mucous membrane 
QID (4 times a day).  
3. Emtricitabine-Tenofovir 200-300 mg Tablet Sig: One (1) Tablet 
PO DAILY (Daily).  
4. Lactulose 10 gram/15 mL Syrup Sig: ___ MLs PO TID (3 times 
a day): Please titrate to 3 bowel movements a day.  
5. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO once a 
day.  
6. Raltegravir 400 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
7. Ascorbic Acid ___ mg Tablet Sig: Two (2) Tablet PO QHS (once 
a day (at bedtime)).  
8. Caltrate-600 Plus Vitamin D3 600-400 mg-unit Tablet Sig: One 
(1) Tablet PO twice a day.  
9. Tolvaptan 15 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

10. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
11. Spironolactone 100 mg Tablet Sig: One (1) Tablet PO QAM 
(once a day (in the morning)).  
12. Spironolactone 100 mg Tablet Sig: 0.5 Tablet PO QPM (once a 
day (in the evening)).
Disp:*15 Tablet(s)* Refills:*2*
13. Outpatient Lab Work
collect on ___
CBC, Chem 7, LFTs, INR, ___. 
dx: Cirrhosis
Fax to Dr ___ ___
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
- Hydrothorax secondary to ascites
- Cirrhosis secondry to hepatitis C virus

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
You were admitted to ___ with 
accumulation of fluid around your right lung.  Fluid was drained 
from this space with resultant improvement in your shortness of 
breath. 

Your diuretics regimen was increased in an effort to reduce the 
rate of reaccumulation of fluid.  You diuresed well on this 
regimen and will be continued on it as an outpatient.

The following medications have been changed:
INCREASED furosmide (lasix) to 40 mg once a day
INCREASED spironolactone (aldactone) to 100 mg in the morning, 
50 mg at night
 
Followup Instructions:
___